US06034099
From the reaction of p-hydrazinobenzoic acid and diethyl-3-oxoglutarate, 4-(3-ethoxycarbonylmethyl-4,5-dihydro-5-oxo-1H-pyrazol-1-yl)-benzoic acid is obtained. Subsequent reaction with 2-ethylaniline yields 4-(4-(2-thylanilinomethylene)-3-ethoxycarbonylmethyl-4,5-dihydro-5-oxo-1H-pyrazol-1-yl)-benzoic acid, Mp 246° C.

reactant | p-hydrazinobenzoic acid | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | diethyl-3-oxoglutarate | C(C)OC(CC(CC(=O)OCC)=O)=O | C9H14O5
product | 4-(3-ethoxycarbonylmethyl-4,5-dihydro-5-oxo-1H-pyrazol-1-yl)-benzoic acid | C(C)OC(=O)CC1=NN(C(C1)=O)C1=CC=C(C(=O)O)C=C1 | C14H14N2O5
